US04939138
In the same manner, the isomeric 3-hydroxymethyl-4-methanesulfonyl-3,4-dihydro-2H-1,4-benzoxazine p-toluenesulfonate obtained above (40.8 g, 0.10 mole) was reacted with 60 ml of morpholine in 100 ml of N-methylpyrrolidone to give 22.5 g of 3-(4-morpholinylmethyl)-4-methanesulfonyl-3,4-dihydro-2H-1,4-benzoxazine.

reactant | 3-hydroxymethyl-4-methanesulfonyl-3,4-dihydro-2H-1,4-benzoxazine p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)O)C.OCC1COC2=C(N1S(=O)(=O)C)C=CC=C2
reactant | morpholine | 60 ml | N1CCOCC1 | C4H9NO
solvent | N-methylpyrrolidone | 100 ml | CN1C(CCC1)=O | C5H9NO
product | 3-(4-morpholinylmethyl)-4-methanesulfonyl-3,4-dihydro-2H-1,4-benzoxazine | 22.5 g | N1(CCOCC1)CC1COC2=C(N1S(=O)(=O)C)C=CC=C2 | C14H20N2O4S
